US08877782B2
6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 12, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid (200 mg, 0.64 mmol) was converted using 4-aminotetrahydropyran instead of 2,2,2-trifluoroethylamine to the title compound (SiO2, heptane:ethyl acetate=80:20 to 20:80, 231 mg, 91%) which was obtained as a white solid. MS: m/e=394.1 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 0.64 mmol, 200 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-N-(tetrahydro-pyran-4-yl)-nicotinamide | 231 mg, 91% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)NC2CCOCC2)C=C1 | C22H23N3O4
